US07470679B2
(S)-2-(4-bromo-8-oxo-6,7,8,10-tetrahydro-3H-oxepino[3,4-e]indazol-7-yl)acetic acid
(S)-2-((7-Bromo-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinic acid (95 mg, 0.266 mmol) was suspended in toluene (15 mL). p-Toluenesulfonic acid monohydrate (3.5 mg, 0.018 mmol) was added to the mixture. Reaction was warmed to reflux and held with stirring for 18 hours. Mixture was concentrated to dryness. Title compound was obtained as tan solid in 99% yield. LCMS (M−H)−=339.0, 337.0.

reactant | (S)-2-((7-Bromo-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinic acid | 0.266 mmol, 95 mg | BrC=1C=C(C(=C2C=NNC12)CO)C[C@H](C(=O)O)CC(=O)O | C13H13BrN2O5
reactant | p-Toluenesulfonic acid monohydrate | 0.018 mmol, 3.5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(4-bromo-8-oxo-6,7,8,10-tetrahydro-3H-oxepino[3,4-e]indazol-7-yl)acetic acid | 99% yield | BrC1=CC2=C(C=3C=NNC13)COC([C@@H](C2)CC(=O)O)=O | C13H11BrN2O4
